US07872031B2
A solution of N-(4-methoxybenzyl)-5-bromo-3-(5-(2,3-dichlorophenyl)thiazol-4-yl)pyridin-2-amine (50 mg, 0.116 mmol) in dimethoxyethane (0.5 mL) and water (0.5 mL) was degassed with nitrogen while adding NaHCO3 (30 mg, 0.347 mmol), and palladium tetrakis triphenylphosphine (13 mg, 0.012 mmol). 3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (28 mg, 174 mmol) was added under nitrogen and the mixture was heated to 120° C. overnight. The reaction mixture was concentrated and taken up in ethyl acetate, filtered through silica with ethyl acetate eluant, and the filtrate concentrated to provide N-(4-methoxybenzyl)-3-(5-(2,3-dichlorophenyl)thiazol-4-yl)-5-(pyridin-3-yl)pyridin-2-amine, which was used in the next reaction without further purification.

reactant | N-(4-methoxybenzyl)-5-bromo-3-(5-(2,3-dichlorophenyl)thiazol-4-yl)pyridin-2-amine | 0.116 mmol, 50 mg | COC1=CC=C(CNC2=NC=C(C=C2C=2N=CSC2C2=C(C(=CC=C2)Cl)Cl)Br)C=C1 | C22H16BrCl2N3OS
reactant | NaHCO3 | 0.347 mmol, 30 mg | C(=O)(O)[O-].[Na+]
reactant | 3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 174 mmol, 28 mg | CC1(OB(OC1(C)C)C=1C=NC=CC1)C | C11H16BNO2
solvent | dimethoxyethane | 0.5 mL | C(OC)COC | C4H10O2
solvent | water | 0.5 mL | O | H2O
product | N-(4-methoxybenzyl)-3-(5-(2,3-dichlorophenyl)thiazol-4-yl)-5-(pyridin-3-yl)pyridin-2-amine | COC1=CC=C(CNC2=NC=C(C=C2C=2N=CSC2C2=C(C(=CC=C2)Cl)Cl)C=2C=NC=CC2)C=C1 | C27H20Cl2N4OS
